US08557830B2
A mixture of 1-chloro-6-methylisoquinolin-5-amine (414 mg, 2147 μmol) and 4-(2-fluoropyridin-3-yl)-1H-pyrazolo[3,4-d]pyrimidine (420 mg, 1952 μmol) in THF (20 ml) was sonicated until all solid became a fine powder. Lithium bis(trimethylsilyl)amide, 1.0 M solution in THF (6831 μl, 6831 mmol) was then added (all solids were dissolved and color changed) The mixture was stirred at rt overnight. The mixture was poured into a mixture of MeOH (20 ml) and AcOH (2 ml) and then solvent was removed in vacuo. 2 M NH3/MeOH (30 ml) was added and then solvent was removed in vacuo. The product was purified by flash chromatography eluting with MeOH/DCM (0-5%) to give N-(3-(1H-pyrazolo[3,4-d]pyrimidin-4-yl)pyridin-2-yl)-1-chloro-6-methylisoquinolin-5-amine. MS Found (ESI pos. ion) m/z 388 (M+H+).

reactant | 1-chloro-6-methylisoquinolin-5-amine | 2147 μmol, 414 mg | ClC1=NC=CC=2C(=C(C=CC12)C)N | C10H9ClN2
reactant | 4-(2-fluoropyridin-3-yl)-1H-pyrazolo[3,4-d]pyrimidine | 1952 μmol, 420 mg | FC1=NC=CC=C1C1=C2C(=NC=N1)NN=C2 | C10H6FN5
reactant | Lithium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | MeOH | 20 ml | CO | CH4O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 6831 mmol, 6831 μl | C1CCOC1 | C4H8O
solvent | AcOH | 2 ml | CC(=O)O | C2H4O2
product | N-(3-(1H-pyrazolo[3,4-d]pyrimidin-4-yl)pyridin-2-yl)-1-chloro-6-methylisoquinolin-5-amine | N1N=CC=2C1=NC=NC2C=2C(=NC=CC2)NC=2C=1C=CN=C(C1C=CC2C)Cl | C20H14ClN7
